US05308854
3-[2-(Benzoxazol-2-yl)-ethyl]-5-ethyl-6-methyl pyridin-2(1H)-thione
A mixture of 3-[2-(benzoxazol-2-yl)-ethyl]-5-ethyl-6-methyl pyridin-2(1H)-one (150 mg, 0.53 mmol) and 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's Reagent) (485 mg, 1.2 mmol) in dry toluene (4 mL) was refluxed for 6-10 hours. The solvent was evaporated and the reaction residue was flash chromatographed on silica gel eluting with 0.5% methanol/chloroform. The appropriate fractions were combined and crystallized from ethyl acetate to yield 80 mg of slightly impure product. This material was re-chromatographed on silica gel eluting with chloroform. The appropriate fractions were combined, the solvent evaporated, and the residue recrystallized from boiling diethyl ether, after addition of sufficient methylene chloride to effect complete dissolution, to yield 39 mg (24%) of pure product, m.p. 199°-201° C.

reactant | 3-[2-(benzoxazol-2-yl)-ethyl]-5-ethyl-6-methyl pyridin-2(1H)-one | 0.53 mmol, 150 mg | O1C(=NC2=C1C=CC=C2)CCC=2C(NC(=C(C2)CC)C)=O | C17H18N2O2
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 1.2 mmol, 485 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(Benzoxazol-2-yl)-ethyl]-5-ethyl-6-methyl pyridin-2(1H)-thione | 39 mg, 24% | O1C(=NC2=C1C=CC=C2)CCC=2C(NC(=C(C2)CC)C)=S | C17H18N2OS
